plaintext
* SPICE Netlist
? Missing component
I1 5 4 DC IREF
* NMOS Transistors
M1 2 5 0 0 NMOS
M2 5 5 0 0 NMOS
* PMOS Transistor
M3 3 2 3 3 PMOS
* Capacitor
C1 3 6 C1
.END
